*****************************************************************
* INFINEON Power Transistors                                    *
* Content:        SPICE Model Library                           *
* Device:         CoolMOS (Superjunction MOSFET)                *
* Model Types:    L0 L1 L3                                      *
* Technology:     S7A 600V                                      *
* Date and time:  03.05.2022  11:35:26                          *
* Version:        951-718-942-958-939-960                       *
*****************************************************************
*                                                               *
* The models for Infineon Power MOSFET are evaluated with       *
* SIMetrixTM-SPICE simulator. The Infineon Power MOSFET models  *
* are tested, verified and provided in SPICE simulation code.   *
*                                                               *
* Infineon | Terminals | Usage suggestion                       *
* Level    |           |                                        *
* ------------------------------------------------------------- *
* L0       | G, D, S   | General electrical simulations/ whole  *
*          |           | application circuits.                  *
* ------------------------------------------------------------- *
* L1       | G, D, S   | Transient, switching losses and        *
*          |           | efficiency analyses. Behavior of       *
*          |           | device over full temperature range.    *
* ------------------------------------------------------------- *
* L2       | G, D, S,  | Same as L1 but with individual device  *
*          | Tj, Tcase | temperature. This model is not         *
*          |           | supported because it is covered by     *
*          |           | L3-model.                              *
* ------------------------------------------------------------- *
* L3       | G, D, S,  | Self-heating effects, modeling of heat *
*          | Tj, Tcase | flow including thermal models of       *
*          |           | application.                           *
*                                                               *
*****************************************************************
* Detailed Informations:                                        *
*                                                               *
* The model files are available on the Infineon web page:       *
* http://www.infineon.com                                       *
* Please refer also to the Infineon application note AN 2014-02 *
* "Simulation models for Infineon Power MOSFET"                 *
*                                                               *
* This library contains models of the following INFINEON        *
* CoolMOS transistors:                                          *
*                                                               *
*   S7A 600V                                                    *
*      IPDQ60R010S7A                                            *
*                                                               *
*****************************************************************
**********************************************************************
************************ L1 TECHNOLOGY MODEL *************************
**********************************************************************

.SUBCKT cool_600_S7_varT9 dd g s Tj T1 PARAMS: a=1 dVth=0 dR=0 dgfs=0 Inn=1 Unn=1 Rmax=1
+gmin=1 Rs=1 Rp=1 dC=0 heat=0
.PARAM	Tref=298
.PARAM	fpar1={4.63-0.01}
.PARAM	fpar2={4.69m+0.5m}
.PARAM	fpar3={-3.2m*1}
.PARAM  fpar4={11.7*1.28}
.PARAM  fpar5={0.46*1.17}
.PARAM  fpar6={3.12*1.056}
.PARAM  fpar7={0.3*1.18}
.PARAM  fpar8={6.40*1}
.PARAM  fpar9={0.9*1.0}
.PARAM  fpar10=5.8
.PARAM  fpar11=1.2
.PARAM 	fpar12=3.2
.PARAM  fpar13=0.3
.PARAM  fpar14=-23.
.PARAM 	fpar15=660
.PARAM  fpar16=0.715
.PARAM  fpar17=0
.PARAM  fpar18={0.61*58.0m}
.PARAM	fpar19=-29
.PARAM  fpar20=0.65u
.PARAM  fpar21=1.05
.PARAM 	fpar22=1.02
.PARAM  fpar23={(1.471n+3.7p)/1000}
.PARAM  fpar24={110p*1.35}
.PARAM  fpar25=10.0p
.PARAM  fpar26={0.5f}
.PARAM  fpar27={0.2*7.0p}
.PARAM  fpar28=0.6p
.PARAM	fpar29={60f+0.27839p}
.PARAM  fpar30={2.3404p}
.PARAM  fpar31={2.27p*0.95}
.PARAM  fpar32={600p*1.02}
.PARAM	fpar33={4.n*1.15}
.PARAM  fpar34={150p*0.97}
.PARAM	fpar35=45.7696p
.PARAM  fpar36=193.32p
.PARAM	fpar37=85.8u
.PARAM  fpar38=273
.PARAM  r0={fpar8*((fpar38/Tref)**fpar9)*a}
.PARAM  r1={(Unn-Inn*Rs-fpar1)*r0}
.PARAM  r2={(fpar17*SQRT(0.4)-fpar11)*Inn*r0}
.PARAM  Rlim={(r1+2*r2*Rmax-SQRT(r1**2+4*r2))/(2*r2)}
.PARAM  fpar39={fpar5/a+if(dVth==0,limit(dR,0,1)*max(Rlim-fpar5/a-Rs-Rdp,0),0)}
.PARAM  fpar40={fpar18/a}
.PARAM  fpar41={fpar23*a}
.PARAM  fpar42={fpar24*a}
.PARAM  fpar43={fpar25*a}
.PARAM  fpar44={fpar26*a}
.PARAM  fpar45={(fpar29*a+fpar30)}
.PARAM  fpar46={fpar31*a}
.PARAM  fpar47={a*fpar32}
.PARAM  fpar48={(fpar35+fpar36*a)}
.PARAM  fpar49=-0.17
.PARAM  x0={(fpar27-fpar25)/fpar28}  x1={fpar27/fpar28} dx={x1-x0} pc22=85
.FUNC 	QCdg1(x) {fpar43*min(x,x1)+fpar45*max(x-x1,0)+fpar44/2*max(0, x-pc22)**2+(fpar43-fpar45)*((limit(x,x0,x1)-x0)**3/(dx*dx)*((limit(x,x0,x1)-x0)/(2*dx)-1))}
.PARAM  fpar50={-3500}	fpar51={-110}	fpar52={-100}	fpar53={-0.16}	fpar54={-10m}  fpar55={-0.6}
.PARAM 	a0={(fpar33-fpar32)/fpar34} a1={fpar33/fpar34} da={a1-a0}
.FUNC 	QCds1(x) {fpar47*min(x,a1)+fpar47*((limit(x,a0,a1)-a0)**3/(da*da)*((limit(x,a0,a1)-a0)/(2*da)-1))}
E_Edg1    d1   ox  VALUE {if(V(d1,g)>0,V(d1,g)-(exp(fpar49*max(V(d1,g),0))-1)/fpar49,0)}
C_Cdg1   ox   g   {fpar42}
E_Edg2   d1   ox2 VALUE {V(d1,g)-QCdg1(V(d1,g))/fpar43}
C_Cdg2  ox2   g   {fpar43}
C_Cds0    d1      s  {fpar46}
E_Eds1    d1  edep1  VALUE {if(V(d1,s)>0,V(d1,s)-fpar50*(exp(fpar53*max(V(d1,s),0))-1)-fpar51*(exp(fpar54*max(V(d1,s),0))-1)-fpar52*(exp(fpar55*max(V(d1,s),0))-1),0)}
C_Cds1    edep1   s   {fpar46}
E_Eds2    d1   edep2 VALUE {V(d1,s)-QCds1(V(d1,s))/fpar47}
C_Cds2    edep2   s  {fpar47}
C_Cgs   g    s   {fpar48}
.FUNC I0(Uee,p,pp,z1,cc)  {if(Uee>pp,(Uee-cc*z1)*z1,p*(pp-p)/cc*exp((Uee-pp)/p))}
.FUNC Ig(Uds,T,p,Uee,cc)  {fpar8*(fpar38/T)**fpar9*I0(Uee,p,min(2*p,p+cc*Uds),min(Uds,Uee/(2*cc)),cc)}
.FUNC J(d,g,T,da,s)
+ {a*(s*(Ig(da,T,fpar10*fpar37*T,g-fpar1-dVth+fpar2*(T-Tref),fpar11)+1*exp(min(fpar14+(d-fpar15-fpar16*(T-Tref))/fpar13,25))))}
G_chan    d    s  VALUE={J(V(d,s),V(g,s),fpar38+limit(V(Tj),-200,499),(SQRT(1+4*fpar12*abs(V(d,s)))-1)/2/fpar12,sgn(V(d,s)))}
V_Ichannel d1 d 0
.FUNC Rd0(T)  {(fpar7*fpar39+(1-fpar7)*fpar39*(T/Tref)**fpar6)}
.FUNC CF(T,Iepi) {(fpar4**2)/max(1,fpar4**2-(Rd0(T)*Iepi)**limit(2+fpar3*(T-Tref),1.2,3))}
V_Iepi     dd d2 0
G_G_Rd     d2 d1 VALUE {V(d2,d1)/(Rd0(fpar38+LIMIT(V(t1),-200,999))*CF(fpar38+LIMIT(V(t1),-200,999),abs(I(V_Iepi))))}
.PARAM fpar56=2.8
.PARAM fpar57=0.01
.PARAM fpar58=3
.PARAM fpar59=2.3
Dbody s dio dbody
.model dbody D (BV={fpar15*10}, CJO ={1*fpar41}, TT={fpar20}, IS ={a*exp(fpar19)} m={0.3} RS={fpar40/100} N={fpar21} )
G_Rdio   dio2   dd  VALUE={OFFBJT(V(g,s))*(V(dio2,dd)*(1+fpar56*V(dio2,dd)**(1+2*OFFBJT2(V(g,s)))))/(fpar40*((limit(V(Tj),-200,999)+fpar38)/Tref)**fpar22)}
V_sense2 dio2   dio  0
.PARAM PI=3.1415926535897932384626433832795028841971
.FUNC OFFBJT(Vgs) {if(Vgs>fpar58,1-fpar59*abs(ARCTAN((Vgs-fpar58)^fpar57))/PI,1)}
.FUNC OFFBJT2(Vgs) {if(Vgs>fpar58,abs(1-OFFBJT(Vgs)),0)}
R_R_ERd_g  d2 d1  10k
R1        g    s    1G
Rd01      d    s    500Meg
Rd02     d2    s    500Meg
Rd05     dio   s    500Meg
G_G_Ptot_channel 0 Tj VALUE {heat*LIMIT(V(d,s)*I(V_Ichannel),0,100k) }
G_G_Ptot_Epi     0 t1 VALUE {heat*(LIMIT(V(dd,d1)*I(V_Iepi),0,100k)+LIMIT(V(dd,s)*I(V_sense2),0,100k))}
.ENDS

**********************************************************************
**********************************************************************
************************ L0 TECHNOLOGY MODEL *************************
**********************************************************************

.SUBCKT s7_cool_tech0a d1 g2 s2 PARAMS: a=1
.PARAM  MOS_KP_A=6 			MOS_KP={MOS_KP_A*a}
.PARAM  MOS_VTO=4.9
.PARAM  MOS_THETA=0.0
.PARAM  MOS_ETA=0.0
.PARAM  MOS_RdA=0.5 		MOS_Rd={MOS_RdA/a}
.PARAM  MOS_TC_RD=15.5m
.PARAM  MOSR_KPR_A=27.6  		MOSR_KPR={MOSR_KPR_A*a}
.PARAM  MOSR_VTOR=-0.823
.PARAM  MOSR_LAMBDAR=0.1
.PARAM  Dbt_BV=600
.PARAM  Dbt_M=1.2
.PARAM  Dbt_CJ0_A=8n 		Dbt_CJ0={Dbt_CJ0_A*a}
.PARAM  Dbt_VJ=0.48
.PARAM  DBODY_IS_A=1.2p		DBODY_IS={DBODY_IS_A*a}
.PARAM  DBODY_N=1.11
.PARAM  DBODY_RRS=2u
.PARAM  DBODY_EG=1.1
.PARAM  DBODY_TT=250n
.PARAM  DBODY_RSA=27m		DBODY_RS={DBODY_RSA/a}
.PARAM  DBODY_RS_TC=2.2m
.PARAM  DGD_M=0.61
.PARAM  DGD_VJ=0.08
.PARAM  CAP_Cox_Ac=0.095n	CAP_Cox_c={CAP_Cox_Ac*a}
.PARAM  CAP_Cgs_Ac=0.2n		CAP_Cgs_c={CAP_Cgs_Ac*a}
.PARAM  CAP_Cds1_Ac=0.02p	CAP_Cds1_c={CAP_Cds1_Ac*a}
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= {MOS_KP}  VTO={MOS_VTO}  THETA={MOS_THETA}  VMAX=1.5e5  ETA={MOS_ETA}  LEVEL=3)
Rd     d2    d1a    {MOS_Rd} TC1={MOS_TC_RD}
.MODEL MVDR NMOS (KP={MOSR_KPR} VTO={MOSR_VTOR}   LAMBDA={MOSR_LAMBDAR})
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m
Cds1 s2 d2 {CAP_Cds1_c}
Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV={Dbt_BV}   M={Dbt_M}  CJO={Dbt_CJ0}  VJ={Dbt_VJ} T_ABS=25)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS={DBODY_IS}  N={DBODY_N}  RS={DBODY_RRS}  EG={DBODY_EG}  TT={DBODY_TT})
Rdiode  d1  21    {DBODY_RS} TC1={DBODY_RS_TC}
.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1 T_ABS=25)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   {CAP_Cox_c}
.MODEL     DGD    D(M={DGD_M}   CJO={CAP_Cox_c}   VJ={DGD_VJ} T_ABS=25)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    {CAP_Cgs_c}
.ENDS s7_cool_tech0a

**********************************************************************

.SUBCKT IPDQ60R010S7A_L0 drain gate source
.PARAM act=61.617
X1  dd g s s7_cool_tech0a PARAMS: a={act}
Lg     gate   g1    8.11E-09
Ld     drain  dd    1.36E-09
Ls     source s1    1.79E-09
Rs     s1     s    2.29E-04
Rg     g1     g    0.45
.ENDS IPDQ60R010S7A_L0

********************************************************************************

.SUBCKT IPDQ60R010S7A_L1 drain gate source PARAMS: dVth=0 dRdson=0
.PARAM Rs=2.29E-04    Rg=0.45    Rdp=3.71E-05          Ls=1.79E-09        Ld=1.36E-09
.PARAM Lg=8.11E-09    act=61.617        Inn={1.0*61.617}  Unn=10.0       Rmax=10.0m
X1  dd g s Tj Tj cool_600_S7_varT9 PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn}
                                      +Rmax={Rmax} Rs={Rs} Rdp={Rdp} heat=0
L_Ld         drain  ldrd    {Ld}
R_Ld         drain  ldrd    10
R_Rd         dd     ldrd    {Rdp}
L_Ls         source lsrs  {Ls}
R_Ls         source lsrs  10
R_Rs         s      lsrs  {Rs}
L_Lg         gate   lgrg  {Lg}
R_Lg         gate   lgrg  10
R_Rg         lgrg   g     {Rg}
E1    Tj     w      VALUE={TEMP}
R1    w      0      1u
.ENDS

********************************************************************************

.SUBCKT IPDQ60R010S7A_L3 drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 Zthtype=0
.PARAM Rs=2.29E-04    Rg=0.45    Rdp=3.71E-05          Ls=1.79E-09        Ld=1.36E-09
.PARAM Lg=8.11E-09    act=61.617        Inn={1.0*61.617}  Unn=10.0       Rmax=10.0m
.PARAM lzth={limit(Zthtype,0,1)}
X1  dd g s Tj 1 cool_600_S7_varT9 PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn}
                                     +Rmax={Rmax} Rs={Rs} Rdp={Rdp} heat=1
L_Ld         drain  ldrd    {Ld}
R_Ld         drain  ldrd    10
R_Rd         dd     ldrd    {Rdp}
L_Ls         source lsrs  {Ls}
R_Ls         source lsrs  10
R_Rs         s      lsrs  {Rs}
L_Lg         gate   lgrg  {Lg}
R_Lg         gate   lgrg  10
R_Rg         lgrg   g     {Rg}
C_Czth1      Tj     0     592.752u
C_Czth2      0      1     3.574m
C_Czth3      0      2     5.046m
C_Czth4      0      3     28.686m
C_Czth5      0      4     107.851m
C_Czth6      0      Tcase 140.0m
C_Czth7      0      6     220.0m
C_Czth8      0      7     500.0m
R_Rth1       Tj     1     {2.75m+lzth*713.58u}
R_Rth2       1      2     {3.8m+lzth*984.24u}
R_Rth3       2      3     {18.36m+lzth*20.86m}
R_Rth4       3      4     {39.58m+lzth*19.19m}
R_Rth5       4      Tcase {54.58m+lzth*19.19m}
R_Rth6       Tcase  6     400.0m
R_Rth7       6      7     30.0
.ENDS

********************************************************************************
